US08304419B2
Step A: Ethyl 5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylate
A solution of 1-(1,1-dimethylethyl)2-ethyl 5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-1,2-dicarboxylate (0.389 g, 0.840 mmol) in THF (4 mL) was treated with 1N HCl (0.840 mL, 0.840 mmol) and the reaction mixture was stirred for several hours at room temp. TLC showed consumption of the starting material and 2 product spots. Solvents were evaporated and the residue dissolved in DCM (4 mL) and TFA (0.25 mL, 3.24 mmol) was added. TLC showed a single product spot. The solvents were evaporated to afford the title compound (0.224 g, 96%) as a grey solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 10.74 (br. s., 1H), 7.41 (d, 1H), 7.32 (s, 1H), 7.12 (d, 1H), 7.06 (d, 1H), 6.94 (dd, 1H), 4.32 (q, 2H), 4.05 (t, 2H), 3.88 (t, 2H), 1.32 (t, 3H). LCMS: m/z 204.2 (M-45).

reactant | 1-(1,1-dimethylethyl)2-ethyl 5-[(2-{[(1,1-dimethylethyl)(dimethyl)silyl]oxy}ethyl)oxy]-1H-indole-1,2-dicarboxylate | 0.840 mmol, 0.389 g | CC(C)(C)[Si](OCCOC=1C=C2C=C(N(C2=CC1)C(=O)OCCC(C)(C)C)C(=O)[O-])(C)C
reactant | HCl | 0.840 mmol, 1N, 0.840 mL | Cl | ClH
reactant | TFA | 3.24 mmol, 0.25 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | Ethyl 5-[(2-hydroxyethyl)oxy]-1H-indole-2-carboxylate | 0.224 g, 96% | OCCOC=1C=C2C=C(NC2=CC1)C(=O)OCC | C13H15NO4
